US07737152B2
tert-butyl 2-(3-(6-(3-acetamidophenyl)pyrazin-2-ylamino)phenoxy)ethylcarbamate, CJS 702
Using Method O, 2-(3-acetamidophenyl)-6-chloropyrazine (150 mg, 0.61 mmol), tert-butyl 2-(3-aminophenoxy)ethylcarbamate (CJS 700, 190 mg, 0.753 mmol), tris(dibenzylideneacetone) dipalladium (0) (28 mg, 0.030 mmol), 1,3-bis(2,6-di-i-propylphenyl)-4,5-dihydro-imidazolium tetra-fluoroborate (29 mg, 0.061 mmol) and potassium tert-butoxide (102 mg, 0.91 mmol), and dioxane (3.5 mL) were reacted at 100° C. for 20 minutes with microwave heating. The reaction mixture was filtered and washed with ethyl acetate (45 mL). The resulting liquid was dried under vacuo to give a paste that was chromatographed using a mixture of ethyl acetate:dichloromethane (1:1) as eluent to furnish 120 mg of the title compound. Yield: 43%. 1H NMR (250 MHz, DMSO-d6) δ 1.37 (s, 9 H), 2.09 (s, 3 H), 3.32 (m, 2 H), 3.98 (m, 2 H), 6.56 (dd, 1 H, Ja=8.0 Hz, Jb=2.4 Hz), 7.01 (bt, 1 H), 7.25 (t, 1 H, J=8.1 Hz), 7.36 (bd, 1 H, J=8.4 Hz), 7.45 (t, 1 H, J=7.9 Hz), 7.59 (bs, 1 H), 7.66 (bd, 1 H, J=9.2 Hz), 7.74 (bd, 1 H, J=8.0 Hz), 8.19 (s, 1 H), 8.34 (bs, 1 H), 8.42 (s, 1 H), 9.60 (s, 1 H), 10.09 (s, 1 H). 13C NMR (62.5 MHz, DMSO-d6) δ 23.99, 28.18, 66.23, 77.77, 103.95, 107.82, 110.74, 117.11, 120.07, 121.24, 129.24, 129.66, 130.08, 133.66, 137.10, 139.90, 141.88, 147.96, 151.44, 155.65, 158.87, 168.53. m/z 364.2 [(M-Boc+H)+ calc for C20H21N5O2 363.2].

reactant | 2-(3-acetamidophenyl)-6-chloropyrazine | 0.61 mmol, 150 mg | C(C)(=O)NC=1C=C(C=CC1)C1=NC(=CN=C1)Cl | C12H10ClN3O
reactant | tert-butyl 2-(3-aminophenoxy)ethylcarbamate | 0.753 mmol, 190 mg | NC=1C=C(OCCNC(OC(C)(C)C)=O)C=CC1 | C13H20N2O3
reactant | 1,3-bis(2,6-di-i-propylphenyl)-4,5-dihydro-imidazolium tetra-fluoroborate | 0.061 mmol, 29 mg | F[B-](F)(F)F.C(C)(C)C1=C(C(=CC=C1)C(C)C)[N+]1=CN(CC1)C1=C(C=CC=C1C(C)C)C(C)C
reactant | potassium tert-butoxide | 0.91 mmol, 102 mg | CC(C)([O-])C.[K+]
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 0.030 mmol, 28 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 2-(3-(6-(3-acetamidophenyl)pyrazin-2-ylamino)phenoxy)ethylcarbamate | 120 mg, Yield: 43% | C(C)(=O)NC=1C=C(C=CC1)C1=CN=CC(=N1)NC=1C=C(OCCNC(OC(C)(C)C)=O)C=CC1 | C25H29N5O4
